US09120757B2
To a solution of (R/S) tert-butyl N-methyl-N-[2-[methyl([[1-(oxan-2-yl)-3-(piperidin-4-yl)-1H-pyrazol-4-yl]methyl])amino]ethyl]carbamate (250 mg, 0.57 mmol, 1.00 equiv) and 2-methylpropanal (62 mg, 0.86 mmol, 1.50 equiv) in 1,2-dichloroethane (15 mL) was added NaBH(OAc)3 (364 mg, 3.00 equiv). The resulting solution was stirred at room temperature overnight and then concentrated under vacuum to give 160 mg of crude (R/S) tert-butyl 2-(((3-(1-isobutylpiperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl(methyl)carbamate as a light yellow oil. LCMS (method A, ESI): RT=1.52 min, m/z=492.2 [M+H]+.

reactant | (R/S) tert-butyl N-methyl-N-[2-[methyl([[1-(oxan-2-yl)-3-(piperidin-4-yl)-1H-pyrazol-4-yl]methyl])amino]ethyl]carbamate | 0.57 mmol, 250 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1CCNCC1)C | C23H41N5O3
reactant | 2-methylpropanal | 0.86 mmol, 62 mg, 1.50 equiv | CC(C=O)C | C4H8O
reactant | NaBH(OAc)3 | 364 mg, 3.00 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | (R/S) tert-butyl 2-(((3-(1-isobutylpiperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl(methyl)carbamate | 160 mg | C(C(C)C)N1CCC(CC1)C1=NN(C=C1CN(CCN(C(OC(C)(C)C)=O)C)C)C1OCCCC1 | C27H49N5O3
